US05196434
6-(2-PROPYLAMINOETHYL)-3-OXO-2,3-DIHYDRO-1,4-BENZOXAZINE
In a round-bottomed flask equipped with a mechanical stirrer and a calcium chloride guard tube, 0.01 mol of n-propylamine and 0.015 mol of triethylamine are added to a solution of 6-(2-bromoethyl)-3-oxo-2,3-dihydro-1,4-benzoxazine in 40 cm3 of dimethylformamide. The mixture is heated to reflux for 15 hours and the precipitate formed is drained in the heated state. The residue is evaporated under vacuum and the product is recrystallized.

reactant | n-propylamine | 0.01 mol | C(CC)N | C3H9N
reactant | triethylamine | 0.015 mol | C(C)N(CC)CC | C6H15N
reactant | 6-(2-bromoethyl)-3-oxo-2,3-dihydro-1,4-benzoxazine | BrCCC=1C=CC2=C(NC(CO2)=O)C1 | C10H10BrNO2
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | 6-(2-PROPYLAMINOETHYL)-3-OXO-2,3-DIHYDRO-1,4-BENZOXAZINE | C(CC)NCCC=1C=CC2=C(NC(CO2)=O)C1 | C13H18N2O2
